US08431596B2
Cyclopropanecarboxylic acid [5-(4-methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide (WW-127)
A microwave tube was charged with cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide (0.05 g, 0.178 mmol), p-anisidine (0.044 g, 0.356 mmol), bis(dibenzylideneacetone)palladium (0.008 g, 0.009 mmol), xantphos (0.010 g, 0.018 mmol) and sodium tert-butoxide (0.038 g, 0.392 mmol) in dioxane (1 mL). A couple of drops of dimethylacetamide were added to assist with microwave absorption. The mixture was heated at 140° C. for 30 min. The mixture was filtered and concentrated in vacuo. The crude product was purified by preparatory HPLC. LCMS method: 2, RT: 3.49 min, MI: 324 [M+1]. NMR (1H, DMSO, 300 MHz): 10.88 (brs, 1H), 8.73 (s, 1H), 7.43 (4, 1H), 7.33 (d, 2H), 6.99 (d, 2H), 6.95 (d, 1H), 6.24 (d, 1H), 3.11 (s, 3H), 2.08 (brs, 1H), 0.83 (d, 4H)

reactant | cyclopropanecarboxylic acid (5-bromo-[1,2,4]triazolo[1,5-a]pyridin-2-yl)-amide | 0.178 mmol, 0.05 g | BrC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C10H9BrN4O
reactant | p-anisidine | 0.356 mmol, 0.044 g | COC1=CC=C(C=C1)N | C7H9NO
reactant | xantphos | 0.018 mmol, 0.010 g | CC1(C2=C(C(=CC=C2)P(C3=CC=CC=C3)C4=CC=CC=C4)OC5=C(C=CC=C51)P(C6=CC=CC=C6)C7=CC=CC=C7)C | C39H32OP2
reactant | sodium tert-butoxide | 0.392 mmol, 0.038 g | CC(C)([O-])C.[Na+]
solvent | dioxane | 1 mL | O1CCOCC1 | C4H8O2
catalyst | dimethylacetamide | A couple of drops | CC(=O)N(C)C | C4H9NO
catalyst | bis(dibenzylideneacetone)palladium | 0.009 mmol, 0.008 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd]
product | Cyclopropanecarboxylic acid [5-(4-methoxy-phenylamino)-[1,2,4]triazolo[1,5-a]pyridin-2-yl]-amide | COC1=CC=C(C=C1)NC1=CC=CC=2N1N=C(N2)NC(=O)C2CC2 | C17H17N5O2
